US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-nitrophenyl)carboxamide [66]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (110 mg) and commercially available 4-nitrobenzoic acid (100 mg) were dissolved in N,N-dimethylformamide (4 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (176 mg) was added, and the admixture was stirred at room temperature for 22 hours. The reaction mixture was then purified in the same manner as described in Example 50 to obtain 126 mg of the title compound (yield: 77%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 110 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-nitrobenzoic acid | 100 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 176 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-nitrophenyl)carboxamide | 126 mg, yield: 77% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C24H19N3O6
